US04435391
A mixture of 8.3 g of ethyl 3-acetylamino-4-(3-methoxyphenoxy)-benzoate and 15.4 g of phosphorus oxychloride and 50 ml of dried toluene was refluxed for 3 hours. The mixture was then cooled and the precipitating crystal was filtered and washed with ethyl acetate to give 8.2 g of ethyl 11-methyl-3-methoxydibenz[b,f][1,4]oxazepine-8-carboxylate hydrochloride. The product was neutralized with ammonia water and extracted with ethyl acetate. After concentrating the extract, ethanol was added to the residue and the precipitating crystal was recrystallized from ethanol to give 6.9 g of ethyl 11-methyl-3-methoxydibenz[b,f][1,4]oxazepine-8-carboxylate as a colorless acicular crystal.

reactant | ethyl 3-acetylamino-4-(3-methoxyphenoxy)-benzoate | 8.3 g | C(C)(=O)NC=1C=C(C(=O)OCC)C=CC1OC1=CC(=CC=C1)OC | C18H19NO5
reactant | phosphorus oxychloride | 15.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 11-methyl-3-methoxydibenz[b,f][1,4]oxazepine-8-carboxylate hydrochloride | 8.2 g | Cl.CC1=NC2=C(OC3=C1C=CC(=C3)OC)C=CC(=C2)C(=O)OCC | InChI=1S/C18H17NO4.ClH/c1-4-22-18(20)12-5-8-16-15(9-12)19-11(2)14-7-6-13(21-3)10-17(14)23-16;/h5-10H,4H2,1-3H3;1H
